US06878714B2
Quinolin-6-yl-methanol (7.7 g, 48 mmol) was dissolved in benzene (3 mL) and SOCl2 (20 mL) was added at 0° C. The mixture was stirred at RT for 1 h, then heated to reflux and stirred an additional 1 h. The mixture was cooled to RT and the solid was filtered to give the 6-chloromethyl-quinoline.

reactant | Quinolin-6-yl-methanol | 48 mmol, 7.7 g | N1=CC=CC2=CC(=CC=C12)CO | C10H9NO
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
solvent | benzene | 3 mL | C1=CC=CC=C1 | C6H6
product | 6-chloromethyl-quinoline | ClCC=1C=C2C=CC=NC2=CC1 | C10H8ClN
